US04510069
HBr is passed, at 0°, into a solution in 50 ml of CH2Cl2 of 2.42 g of 1-propyl-4-p-propylphenylcyclohexene (obtainable by reacting 4-p-propylphenylcyclohexanone with C3H7MgBr, hydrolysing the product to give 1-propyl-4-p-propylphenylcyclohexan-1-ol and dehydrating the latter), the mixture is allowed to stand overnight and is worked up in the customary manner to give r-1-bromo-1-propyl-cis-4-p-propylphenylcyclohexane.

reactant | HBr | Br | BrH
reactant | 1-propyl-4-p-propylphenylcyclohexene | 2.42 g | C(CC)C1=CCC(CC1)C1=CC=C(C=C1)CCC | C18H26
reactant | 4-p-propylphenylcyclohexanone | C(CC)C1=CC=C(C=C1)C1CCC(CC1)=O | C15H20O
reactant | C3H7MgBr | C(CC)[Mg]Br
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-propyl-4-p-propylphenylcyclohexan-1-ol | C(CC)C1(CCC(CC1)C1=CC=C(C=C1)CCC)O | C18H28O
